US08975254B2
N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-ethoxyethyl)thiazole-4-carboxamide was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (350 mg, 1.342 mmo) and 2-(1-ethoxyethyl)thiazole-4-carboxylic acid (661 mg, 3.28 mmol). The product purified by Flash-chromatography (reverse phase). Yield 31.7%. 1H-NMR (400 MHz; MeOD): δ 1.19-1.24 (m, 3H), 1.26 (dd, 3H), 1.51 (t, 3H), 3.48-3.58 (m, 1H), 3.58-3.66 (m, 1H), 4.33-4.46 (m, 2H), 4.52-4.62 (m, 1H), 4.72-4.79 (m, 1H), 6.77 (dd, 1H), 7.70-7.72 (m, 1H), 7.75-7.79 (m, 1H), 7.85-7.89 (m, 1H), 8.02 (m, 1H), 8.08 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 350 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 2-(1-ethoxyethyl)thiazole-4-carboxylic acid | 3.28 mmol, 661 mg | C(C)OC(C)C=1SC=C(N1)C(=O)O | C8H11NO3S
product | N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-ethoxyethyl)thiazole-4-carboxamide | Yield 31.7% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C(C)OCC | C21H22ClN5O2S
